Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
shrimp
 
Attending: ___.
 
Chief Complaint:
small bowel obstruction
 
Major Surgical or Invasive Procedure:
___: Esophagogastroduodenoscopy (EGD)

 
History of Present Illness:
___ h/o gastric cancer s/p partial gastrectomy ___ at ___ ),
esophageal strictures s/p multiple balloon dilations (none
recently), DVT (on xarelto), and multiple SBO initially managed
conservatively last resulted in exploratory lap with lysis of
adhesion ___, who now presents with another SBO. Per report,
patient presented to ___ on ___ with
nausea/vomiting, abdominal distention. SBO initially managed
conservatively but failed, taken for lysis of adhesions on
___. Attempts were made at advancing diet post-op but
patient continued to have nausea/vomiting and abdominal
distension.  NGT was removed post-op and never replaced.  
Patient
continues to pass flatus and had bowel movements post-op,
however, last BM ___, last emesis ___. Repeat CT
abd/pelvis performed ___ demonstrating SBO vs ileus,
contrast passing through to colon. Patient had been started on
reglan/erythromycin without effect. GI consulted at OSH and did
not see patient. Patient started on TPN 1 week ago. Patient's
family now requesting transfer to ___. 

Last dose of xarelto ___. Patient has been taking PO meds 
at
___ to hold anticoagulation today. At
baseline, patient is functional and independent, full code. 
 
Past Medical History:
history of gastric cancer s/p partial gastrectomy (___), 
esophageal strictures s/p multiple balloon dilations, DVT on 
Rivaroxaban, and recurrent SBOs
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam 
Vitals: 97.8, 88, 102/61, 99 RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: breathing comfortably on room air 
ABD: Soft, mildly distended, tender to palpation left-side, no
rebound or guarding, midline incision without erythema, staples
intact 
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 98.2, 120/70, 91, 18, 97 Ra 
Gen: sitting up in chair, appears comfortable
CV: HRR
Pulm: LS ctab
Abd: soft, NT/ND. Healed midline incision
Ext: No edema. RLE in air boot. R-ankle wound CDI, dressed w/ 
adaptic and gaize
 
Pertinent Results:
ENDOSCOPIC STUDIES:  
EGD 
- ___:  Patient is s/p partial gastrectomy. Visualized
gastric pouch appeared normal.
The esophagus was patent without strictures.
The duodenum was not visualized as patient is s/p partial
gastrectomy.
Two jejunal limbs were encountered. One limb, believed to be the
efferent limb, was traversed to 40cm until there was a large
amount of solid matter that could not be traversed. There was no
visualized stricture. The second limb, believed to be the
afferent limb, had a large ball of matter, likely barium, that
could not be traversed.
There were no visualized strictures although visualization of 
the
two jejunal limbs was limited by solid matter.
Otherwise normal EGD to jejunum
 
Brief Hospital Course:
___ h/o gastric cancer s/p partial gastrectomy in ___, 
esophageal strictures s/p multiple balloon dilations, DVT (on 
xarelto), and multiple small bowel obstructions who is status 
post exploratory laparotomy with lysis of adhesion ___ at 
OSH, who is transferred to BI from OSH with ongoing small bowel 
obstruction. The patient is hemodynamically stable. She is kept 
on bowel rest with IV fluids, TPN, and abdominal exams. 

Gastroenterology was consulted due to the patient's persistent 
nausea and vomiting. An EGD was done on ___, which showed no 
visualized strictures although visualization of the two jejunal 
limbs was limited by solid matter. The patient was given 
aggressive bowel regimen and had serial abdominal x-rays to 
evaluate the passage of barium and the obstruction. The patient 
was having multiple bowel movements and the obstruction appeared 
to have resolved. 

A venous duplex study was done which was negative for DVT in the 
right lower extremity. Systemic anticoagulation was not 
restarted. Endocrinology was consulted for an incidental finding 
of elevated TSH. They recommended outpatient follow-up and 
rechecking TSH in 3 months, no need to start medication.  

Diet was progressively advanced as tolerated to a regular diet 
with good tolerability. The patient voided without problem. 
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and denied pain.  
The patient was discharged home with services for her 
pre-existing right ankle wound for which she was receiving wound 
care. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. She was to follow-up with her surgeon from 
the outside hospital, as well as with her PCP and with GI.

 
Medications on Admission:
Outpatient Medications:  
- PPI
- Xarelto
- vitamin D
- Magnesium
 
Discharge Medications:
1.  Ensure (food supplemt, lactose-reduced) 1 bottle oral TID 
W/MEALS 
RX *food supplemt, lactose-reduced [Ensure]  1 bottle by mouth 
three times a day Refills:*0 
2.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Small bowel obstruction

Secondary Diagnosis:
mild subclinical hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred to ___ with an ongoing small bowel 
obstruction after having surgery at an outside hospital. 
Gastroenterology was consulted due to your complicated anatomy 
and prolonged symptoms. They performed an upper endoscopy / EGD 
and found retained food and barium. You were treated with bowel 
rest and were given enemas and laxatives to flush the barium 
through your system. Abdominal x-rays were taken which showed 
progression of contrast through your system, and eventually you 
no longer had any obstructive symptoms. TPN, the nutrition you 
were receiving through your PICC line, has been stopped and you 
are tolerating a regular diet and moving your bowels. You are 
ready to be discharged home to continue your recovery. 

During your work-up, you were noted to have an elevated thyroid 
stimulating hormone (TSH). Endocrinology was consulted and felt 
this was mild subclinical hypothyroid, which did not need to be 
treated. They recommend you follow-up with your PCP to have ___ 
TSH re-checked in ___ months.  

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

 
Followup Instructions:
___